### PR TITLE
[Merged by Bors] - feat: `CommAlgCat` is cocartesian-monoidal

### PR DESCRIPTION
**Pull request by YaelDillies**
Construct the cocartesian-monoidal category structure on `CommAlgCat R` explicitly from the tensor product.

From Toric

Co-authored-by: Andrew Yang <the.erd.one@gmail.com>
Co-authored-by: Michał Mrugała <kiolterino@gmail.com>
Co-authored-by: Christian Merten <christian@merten.dev>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 1]
```diff
@@ -0,0 +1,115 @@
...
+/-!
+# The cocartesian monoidal category structure on commutative `R`-algebras
+
+This file provides the cocartesian-monoidal category structure on `CommAlgCat R` constructed
+explicitly using the tensor product.
+-/
+
+noncomputable section
+
+namespace CategoryTheory.CommAlgCat
```
Comment (erdOne) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: Why was `CommAlgCat` namespaced? I didn't catch that in the original PR. All the other `Cat`s are not namespaced and they don't need to be because they already have `Cat` in their name.

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 2]
```diff
@@ -0,0 +1,115 @@
...
+@[simp] lemma associator_hom_unop_hom :
+    (α_ (op A) (op B) (op C)).hom.unop.hom =
+      (Algebra.TensorProduct.assoc R R A B C).symm.toAlgHom := rfl
+
+@[simp] lemma associator_inv_unop_hom :
+    (α_ (op A) (op B) (op C)).inv.unop.hom = (Algebra.TensorProduct.assoc R R A B C).toAlgHom := rfl
+
+@[simp] lemma tensorHom_unop_hom {D : CommAlgCat R} (f : A ⟶ C) (g : B ⟶ D) :
+    (f.op ⊗ g.op).unop.hom = Algebra.TensorProduct.map f.hom g.hom := rfl
+
```
Comment (erdOne) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: Can you also add these for `fst` and `snd` and `lift` and `toUnit` and `braiding`? Thanks.

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: Oh sorry, remnant of the back and forth in names

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 3]
```diff
@@ -0,0 +1,133 @@
...
+  braiding S T := .op <| isoMk (Algebra.TensorProduct.comm R _ _)
+  braiding_naturality_right := by intros; ext <;> rfl
+  braiding_naturality_left := by intros; ext <;> rfl
+  hexagon_forward S T U := by ext <;> rfl
+  hexagon_reverse S T U := by ext <;> rfl
+
+open MonoidalCategory
+
+@[simp] lemma rightWhisker_hom (f : A ⟶ B) :
+    (f.op ▷ op C).unop.hom = Algebra.TensorProduct.map f.hom (.id _ _) := rfl
```
Comment (erdOne) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: The `op`s should be on the RHS so that the simp lemma can fire more often. e.g. this should be 
```
(f ▷ C).unop.hom = Algebra.TensorProduct.map f.unop.hom (.id _ _)
```
For some `A B C : (CommAlgCat.{u} R)ᵒᵖ` and `(f : A ⟶ B)`

Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: Oh I thought you would say exactly the opposite, actually

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 4]
```diff
@@ -0,0 +1,136 @@
...
+    (β_ A B).hom.unop.hom = (Algebra.TensorProduct.comm R B.unop A.unop).toAlgHom := rfl
+
+@[simp] lemma braiding_inv_unop_hom :
+    (β_ A B).inv.unop.hom = (Algebra.TensorProduct.comm R A.unop B.unop).toAlgHom := rfl
+
+@[simp] lemma tensorHom_unop_hom (f : A ⟶ C) (g : B ⟶ D) :
+    (f ⊗ g).unop.hom = Algebra.TensorProduct.map f.unop.hom g.unop.hom := rfl
+
+@[simp] lemma toUnit_unop_hom (A : (CommAlgCat R)ᵒᵖ) :
+    (toUnit A).unop.hom = algebraMap R A.unop := rfl
```
Comment (erdOne) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]:
```suggestion
    (toUnit A).unop.hom = Algebra.ofId R A.unop := rfl
```

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 5]
```diff
@@ -0,0 +1,136 @@
...
+  braiding S T := .op <| isoMk (Algebra.TensorProduct.comm R _ _)
+  braiding_naturality_right := by intros; ext <;> rfl
+  braiding_naturality_left := by intros; ext <;> rfl
+  hexagon_forward S T U := by ext <;> rfl
+  hexagon_reverse S T U := by ext <;> rfl
+
+open MonoidalCategory
+
+variable {A B C D : (CommAlgCat.{u} R)ᵒᵖ}
+
```
Comment (erdOne) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean:66]:
```suggestion

@[simp] lemma coe_tensorObj_unop : (A ⊗ B).unop = A.unop ⊗[R] B.unop := rfl

@[simp] lemma coe_tensorUnit_unop : (𝟙_ (CommAlgCat.{u} R)ᵒᵖ).unop = R := rfl

```

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 6]
```diff
@@ -0,0 +1,140 @@
...
+-/
+
+open CategoryTheory CartesianMonoidalCategory Limits TensorProduct
+
+noncomputable section
+
+namespace CommAlgCat
+universe u v
+variable {R : Type u} [CommRing R] {A B : CommAlgCat.{u} R}
+
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean:25]: The next 5 decls have `variable (A B) in`, maybe it’s worth wrapping them in a `section` with `variable (A B)`?

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 7]
```diff
@@ -0,0 +1,140 @@
...
+  tensorHom_def := by intros; ext <;> rfl
+  tensor_id := by intros; ext <;> rfl
+  tensor_comp := by intros; ext <;> rfl
+  whiskerLeft_id := by intros; ext <;> rfl
+  id_whiskerRight := by intros; ext <;> rfl
+  associator_naturality := by intros; ext <;> rfl
+  leftUnitor_naturality := by intros; rfl
+  rightUnitor_naturality := by intros; rfl
+  pentagon := by intros; ext <;> rfl
+  triangle := by intros; ext <;> rfl
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: I understand that to make sense of a cocartesian monoidal category you need to put the monoidal structure on the opposite category, but we do have [CategoryTheory.monoidalCategoryOp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Monoidal/Opposite.html#CategoryTheory.monoidalCategoryOp) (you need an extra import to make this work), so this proof could be something like 
```suggestion
  letI : MonoidalCategory (CommAlgCat.{u} R) :=
    { tensorObj S T := of R (S ⊗[R] T)
      whiskerLeft _ {_ _} f := ofHom (Algebra.TensorProduct.map (.id _ _) f.hom)
      whiskerRight {_ _} f T := ofHom (Algebra.TensorProduct.map f.hom (.id _ _))
      tensorHom {_ _ _ _} f g := ofHom (map f.hom g.hom)
      tensorUnit := .of R R
      associator {_ _ _} := isoMk (Algebra.TensorProduct.assoc R R _ _ _)
      leftUnitor _ := isoMk (Algebra.TensorProduct.lid R _)
      rightUnitor _ := isoMk (Algebra.TensorProduct.rid R R _) 
      pentagon _ _ _ _ := by dsimp; ext <;> rfl
      triangle _ _ := by sorry
      associator_naturality _ _ _ := by ext <;> rfl }
  monoidalCategoryOp
```

and I’d argue that the monoidal structure on `CommAlgCat.{u} R` itself that I gave in the `letI` is something we could want on its own.
For reasons I don’t fully understand, though, a `rfl` for the `triangle` field does not want to go through, while it does for the opposite. So there’s something fishy. 

Also, rather than making Quiver.Hom.unop_inj a local ext, maybe #25914 is onto something that would make automation better for the proofs if instead we only go with the "opposite category only" structure?

I recall seeing #21603 introducing chosen finite coproducts. Now that cartesian monoidal categories have replaced chosen finite products, maybe it could be worth looking into salvaging this, and then rather define a `CocartesianMonoidalCategory` instance on `CommAlg.{u} R` rather than a `CartesianMonoidalCategory` one on its opposite?

Also, and sorry to ask if this is obvious, but presumably the monoidal structure on `CommAlgCat` could be obtained by transfering a monoidal structure along an equivalence with `CommMon_ ModuleCat` + a general monoidal structure on `CommMon_  C` for a symetric monoidal category `C` (and such structures are always cocartesian monoidal).
Is the reason you’re not going with that is that it gives bad defeqs?

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: This also wasn’t explicitly stated in my first comment, but defining first a monoidal structure on `CommAlgCat` and then on its opposite via `monoidalCategoryOp` does not change any of long list of defeqs you state below.

Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: @erdOne was against this when I suggested it because it induces duplication. His philosophy is that if `C` is cocartesian-monoidal, then `Cᵒᵖ` is cartesian-monoidal and you should just use that instead of introducing two ways to talk about things

Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: > rather than making Quiver.Hom.unop_inj a local ext, maybe #25914 is onto something that would make automation better for the proofs if instead we only go with the "opposite category only" structure?

Indeed, and that's why Eric cut the grass under my feet by opening that PR

Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: > presumably the monoidal structure on `CommAlgCat` could be obtained by transfering a monoidal structure along an equivalence with `CommMon_ ModuleCat` + a general monoidal structure on `CommMon_ C` for a symetric monoidal category `C` (and such structures are always cocartesian monoidal).
> Is the reason you’re not going with that is that it gives bad defeqs?

Yes, exactly. We really want `CommAlgCat R` to be "`[CommRing A] + [Algebra R A]`, but bundled" so that we can leverage the category theory library to prove things about unbundled commutative algebras, and vice-versa

Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: In the future may I suggest you ask one question per comment? 😅

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: > @erdOne was against this when I suggested it because it induces duplication. His philosophy is that if `C` is cocartesian-monoidal, then `Cᵒᵖ` is cartesian-monoidal and you should just use that instead of introducing two ways to talk about things

I’m assuming "this" refers to the "CocartesianMonoidalCategory" idea. I disagree with this. The category theory library goes to some lengths to provide dual concepts of most of what it defines instead of telling users to "Just use it’s ... in the opposite", even if induces some duplication, I see no reason why this should be different here.

For instance, it happens that some monoidal categories are bi-cartesian (e.g modules w/ direct sums, that we might want to consider as a monoidal category in order to introduce their Grothendiek group), how to make sense of that without _both_ introducing `CartesianMonoidalCategory` and `CocartesianMonoidalCategory`?

Yes, it does introduce possibly two way of saying things, just like there’s an alternate way of saying `X is terminal` by saying "X is initial in ᵒᵖ", and it’s perfectly fine because we tell people that using the second in place of the former is probably not a good idea.

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: > > presumably the monoidal structure on `CommAlgCat` could be obtained by transfering a monoidal structure along an equivalence with `CommMon_ ModuleCat` + a general monoidal structure on `CommMon_ C` for a symetric monoidal category `C` (and such structures are always cocartesian monoidal).
> > Is the reason you’re not going with that is that it gives bad defeqs?
> 
> Yes, exactly. We really want `CommAlgCat R` to be "`[CommRing A] + [Algebra R A]`, but bundled" so that we can leverage the category theory library to prove things about unbundled commutative algebras, and vice-versa

Does "Yes, exactly" answers the "bad defeq" questions?

To be clear about my stance, I find this is rather unsatisfying that the proof here is "redo everything from scratch" rather than "use the equivalence with the general case, and derive it from the general case". If there is no way to get this structure with good defeq from a general equivalence (probably in fact isomorphism) of categories `CommMon_ (ModuleCat R) ≌ CommAlgCat R`, this is probably telling us that we should look into a way to transfer (co/cartesian) monoidal categories structures along equivalences with "user-provided" defeqs for the non-prop fields.

If this turns out to be impossible, so be it, but I feel that we haven’t even tried.

Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: > we should look into a way to transfer (co/cartesian) monoidal categories structures along equivalences with "user-provided" defeqs for the non-prop fields.
> 
> If this turns out to be impossible, so be it, but I feel that we haven’t even tried.

Here we have tried, but decided against it since all the proofs are `by intros; ext <;> rfl` anyway. What would you want to make shorter?

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: Yes, as I said, in this case, my feeling of dissatisfaction does not comes from the fact that "this is too long" rather than "this feels weird to do redo things, even if the proofs are easy"...
I agree here that the proofs are easy and short enough. Apologies for the tangent.

Back to the original point though, I still think the monoidal category structure should be on the category itself, and then the monoidal category structure on its opposite can be inferred via  `monoidalCategoryOp`, this will preserve your defeqs.

Comment (erdOne) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: I think the suggestion of putting a monoidal structure on `CommAlgCat.{u} R` is nice. And then we show `CartesianMonoidalCategory ((CommAlgCat.{u} R)ᵒᵖ)`.

Comment (erdOne) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: > some monoidal categories are bi-cartesian ... how to make sense of that

You say `[MonoidalCategory C] [CartesianMonoidalCategory C] [CartesianMonoidalCategory Cᵒᵖ]`. In fact this is one of the reasons I supported the refactor of `CartesianMonoidalCategory`. 

But now that I say it, I noticed it doesn't make sense because `CartesianMonoidalCategory` extends `MonoidalCategory` rather than assumes it. We should probably fix this.

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: I still feel like concepts like this should be dualized, even if it adds some redundancy. When we want to state a category has coproducts, we use `HasCoproducts C`, not `HasProducts Cᵒᵖ`. When we want to state a functor is oplax monoidal, we use `F.OplaxMonoidal`, not `F.op.LaxMonoidal`. Why would this be any different?

Comment (erdOne) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: I empathise with your point, but OTOH I think there are much fewer cocartesian monoidal category that we care about and wants to talk about co-group objects inside it. In fact I cannot come up with any such example except the titular one where we are actually saying that the category of affine R-schemes is cartesian-monoidal and it's just that the category of affine R-schemes isn't define this way. So I would propose to postpone such dualization to some point in the future where the dualization process is "add a command to each of the file" and not "duplicate thousands of lines".

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: I don’t understand. For every symetric monoidal category `C`, the category of commutative monoids in `C` admits a symetric monoidal structure, which is in fact cocartesian monoidal.

Would you advocate to state that general fact only ever through `Cᵒᵖ`? I say "commutative monoids in a general symetric monoidal category" are interesting enough objects from a purely category-theoretic pov to warrant at least a definition and general properties of cocartesian monoidal structures.
We both know that "point in the future where dualization will be a one-liner" is probably going not going to happen until a long, long time.

Comment (erdOne) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: I guess what I was trying to say is
1. I personally think the reason we dualize things is because ops are annoying to deal with when applied to actual existing categories outside of category theory. But (perhaps due to my lack of mathematical knowledge) I think we will see little cocartesian monoidal categories outside of category theory (perhaps only those who are bi-cartesian?) and hardly ever talk about co-group objects in them for the foreseeable future. 
2. Even if we have cocartesian monoidal categories, the "morally correct" statement here is still `CartesianMonoidalCategory (CommAlgCat.{u} R)ᵒᵖ` because the way we are imaging this is that the category of affine `R`-schemes is cartesian monoidal.

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: For point 1. As I said there are as many interesting cocartesian monoidal categories are they are interesting commutative monoid objects in general symmetric monoidal categories (cdgas, simplicial rings, graded algebras, equivariant variant of these objects... probably more funky examples are cookable, though admittedly all of these are small variants/pointwise variant of the one in this very PR). Even as a cateogry-theory mostly oriented object, I feel they're justifiable as a way to put chosen coproducts with good defeq properties on a  category. 

Point 2. I agree, but I envision that `CocartesianMonoidalCategory C` gives a `CartesianMonoidalCategory` on the opposite (that should be a safe instance IMO). In the case of this PR, that should be defeq to what you define (since you're anyway building things via `IsColimit.op`).

At this point, I think we've made our opinions clear in that
1) I think `CocartesianMonoidalCategory` is justified, desirable in Mathlib, and that now would be a good time to work on it since you want to state that something is a cocartesian monoidal category. 
2) You don't think it's a concept relevant enough to go though the trouble.

We may perhaps ask opinions on Zulip about this?

Note that as I'm the one pushing for this way of doing things, I am willing to write the dualization of existing code if needed.

Comment (erdOne) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: I am convinced by your 2. I am not yet comfortable to say that I am convinced by your 1 but this is probably because of my lack of mathematical experience on this area and I trust your judgement. 

I have tried a bit on dualizing but I think a lot of API are missing so I gave up for now. I wonder if you have a smart way to get it directly from `CartesianMonoidalCategory`? (I think/hope the equiv `CocartesianMonoidalCategory C ≃ CartesianMonoidalCategory Cᵒᵖ` will be refl on both sides so one wouldn't lose anything by "cheating")

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: The ` CartesianMonoidalCategory C -> CocartesianMonoidalCategory Cᵒᵖ` direction seems to work well

```lean
class CocartesianMonoidalCategory (C : Type u) [Category.{v} C] [MonoidalCategory C ] where
  /-- The tensor unit is an initial object. -/
  isInitialTensorUnit : IsInitial (𝟙_ C)
  /-- The first injection to the coproduct. -/
  inl (X Y : C) : X ⟶ X ⊗ Y
  /-- The second injection to the coproduct. -/
  inr (X Y : C) : Y ⟶ X ⊗ Y
  /-- The monoidal product is the categorical coproduct. -/
  tensorProductIsBinaryCoproduct (X Y : C) : IsColimit <| BinaryCofan.mk (inl X Y) (inr X Y)
  inl_def (X Y : C) : inl X Y = (ρ_ X).inv ≫ X ◁ isInitialTensorUnit.to Y := by aesop_cat
  inr_def (X Y : C) : inr X Y = (λ_ Y).inv ≫ isInitialTensorUnit.to X ▷ Y := by aesop_cat

def CartesianMonoidalCategory.op (C : Type u) 
    [Category.{v} C] [MonoidalCategory C] [CocartesianMonoidalCategory C] :
    CartesianMonoidalCategory Cᵒᵖ :=
  { monoidalCategoryOp with
    isTerminalTensorUnit := terminalOpOfInitial CocartesianMonoidalCategory.isInitialTensorUnit
    fst X Y := .op <| CocartesianMonoidalCategory.inl X.unop Y.unop
    snd X Y := .op <| CocartesianMonoidalCategory.inr X.unop Y.unop
    tensorProductIsBinaryProduct X Y := BinaryCofan.IsColimit.op <|
      CocartesianMonoidalCategory.tensorProductIsBinaryCoproduct X.unop Y.unop
    fst_def _ _ := Quiver.Hom.unop_inj <| CocartesianMonoidalCategory.inl_def _ _
    snd_def _ _ := Quiver.Hom.unop_inj <| CocartesianMonoidalCategory.inr_def _ _ }

```

(I’ve made the type class take [MonoidalCategory C]  as an assumption rather than extending it, you’re right that this should be changed about `CartesianMonoidalCategory`).
The other direction highlights a missing constructor `monoidalCategoryUnop` that puts a monoidal structure on `C` given one on `Cᵒᵖ`.

(edited : first version was giving a `CocartesianMonoidalCategory` on opposite from a `CartesianMonoidal` on the category...)

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: After further tries, I can report on "`rfl`ness" of  `CartesianMonoidalCategory Cᵒᵖ ≃ CocartesianMonoidalCategory C`.

The left and right inverses fiels are _not_ `rfl` because of the fields `IsTerminal` and `IsLimit` that carry additional informations, down the rabit hole is the fact that these types are subsingleton, but not "defeq subsingletons". Rest of the fields (so, most importantly, `fst`/`inl` and `snd`/`inr`) are rfl. 

Furthermore, this is "noise" that could be 100% corrected by using `Nonempty IsLimit ...` and `Nonempty IsTerminal ...` in the fields of the structure.

To me, this means is that at worst we'll need some easy simp lemmas to compare opposites of `lift` and `desc`, and ones that compare opposites of `toUnit` and `fromUnit` (edit: in fact, for this very PR, rfl goes through even for toUnit), these are lemmas about maps so they’re "fine" IMO. I barely see this causing any problem down the line, but happy to be convinced otherwise.

Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: May I convince you that replacing `CartesianMonoidalCategory (CommAlgCat R)ᵒᵖ` with `CocartesianMonoidalCategory (CommAlgCat R)` can be done in a later refactor? Right now my job is to disentangle [this mess](https://yaeldillies.github.io/Toric/file_deps.pdf), and you can see that `Toric.Mathlib.Algebra.Category.CommAlgCat.Monoidal` is quite high up in there.

Comment (erdOne) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: One of the point of `CartesianMonoidalCategory` is to get defeqs on `lift` and `toUnit` and I don't think people would be happy to make them into `Nonempty`. (I'm not sure if this is what you are suggesting)

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: > May I convince you that replacing `CartesianMonoidalCategory (CommAlgCat R)ᵒᵖ` with `CocartesianMonoidalCategory (CommAlgCat R)` can be done in a later refactor? Right now my job is to disentangle [this mess](https://yaeldillies.github.io/Toric/file_deps.pdf), and you can see that `Toric.Mathlib.Algebra.Category.CommAlgCat.Monoidal` is quite high up in there.

If the argument behind wanting things this way is "I need this now and like this to accomodate my downstream project", this is a "how much mathlib should accomodate downstream projects" situation. I am not qualified to have any opinion here, and only maintainers are qualified to.

If maintainers decide that this is fine to get this as is and refactor later, so be it, and I’ll work on the refactor (although I’d still ask you to make the braided monoidal structure on `CommAlgCat R` rather than on its opposite, again via instance inferring you lose nothing).
Otherwise, we first add the relevant API.
Tl;dr don’t ask me to take a decision based on "what a downstream project needs", this is not my role.

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: > One of the point of `CartesianMonoidalCategory` is to get defeqs on `lift` and `toUnit` and I don't think people would be happy to make them into `Nonempty`. (I'm not sure if this is what you are suggesting)

I’m not exactly suggesting this, as said, my experiments making it CocartesianMonoidal and let the `CartesianMonoidal` on the opposite be infered showed that you get the same defeqs.

Comment (erdOne) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: I will raise a question in the reviewers chat. In the mean time can @YaelDillies refactor out the braided monoidal structure on `CommAlgCat R` since (I think) we have a consensus on this and this could be done now without waiting for any refactor.

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: (just in case, my experiments with `CocartesianMonoidal` are available in [this branch in my fork](https://github.com/robin-carlier/mathlib4/tree/comm_alg_cat_monoidal))

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean:25]: I doubt so. Better be explicit when things are explicit!

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: > can @YaelDillies refactor out the braided monoidal structure on `CommAlgCat R`

Done

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 8]
```diff
@@ -0,0 +1,126 @@
...
+  tensorObj S T := of R (S ⊗[R] T)
+  whiskerLeft _ {_ _} f := ofHom (Algebra.TensorProduct.map (.id _ _) f.hom)
+  whiskerRight {_ _} f T := ofHom (Algebra.TensorProduct.map f.hom (.id _ _))
+  tensorHom {_ _ _ _} f g := ofHom (map f.hom g.hom)
+  tensorUnit := .of R R
+  associator {_ _ _} := isoMk (Algebra.TensorProduct.assoc R R _ _ _)
+  leftUnitor _ := isoMk (Algebra.TensorProduct.lid R _)
+  rightUnitor _ := isoMk (Algebra.TensorProduct.rid R R _)
+
+@[simp] lemma coe_tensorUnit : 𝟙_ (CommAlgCat.{u} R) = R := rfl
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean:61]:
```suggestion
@[simp] lemma coe_tensorUnit : 𝟙_ (CommAlgCat R) = R := rfl
```

Removing the universe parameter outside of the instance definitions seems to work. Was there a reason it was made explicit everywhere?

Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean:61]: Yes, universe metavariables have poor performance and it is good practice to specify all universes explicitly when doing category theory

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 9]
```diff
@@ -0,0 +1,126 @@
...
+    (fun f g ↦ by ext1; exact Algebra.TensorProduct.lift_comp_includeLeft _ _ fun _ _ ↦ .all _ _)
+    (fun f g ↦ by ext1; exact Algebra.TensorProduct.lift_comp_includeRight _ _ fun _ _ ↦ .all _ _)
+    (fun f g m hm₁ hm₂ ↦ by
+      ext1
+      refine Algebra.TensorProduct.liftEquiv.symm_apply_eq (y := ⟨⟨_, _⟩, fun _ _ ↦ .all _ _⟩).mp ?_
+      exact Subtype.ext (Prod.ext congr(($hm₁).hom) congr(($hm₂).hom)))
+
+/-- The initial object of `CommAlgCat R` is `R` as an algebra over itself -/
+def isInitialSelf : IsInitial (of R R) := .ofUniqueHom (fun A ↦ ofHom (Algebra.ofId R A))
+  fun _ _ ↦ hom_ext (Algebra.ext_id _ _ _)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]:
```suggestion
def isInitialSelf : IsInitial (of R R) :=
  .ofUniqueHom (fun A ↦ ofHom (Algebra.ofId R A)) fun _ _ ↦ hom_ext (Algebra.ext_id _ _ _)
```

I’ll admit I am always confused by the indentation guidelines, but I guess this doesn’t could as a "one-line" proof, so we should indent?

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 10]
```diff
@@ -0,0 +1,126 @@
...
+  whiskerLeft _ {_ _} f := ofHom (Algebra.TensorProduct.map (.id _ _) f.hom)
+  whiskerRight {_ _} f T := ofHom (Algebra.TensorProduct.map f.hom (.id _ _))
+  tensorHom {_ _ _ _} f g := ofHom (map f.hom g.hom)
+  tensorUnit := .of R R
+  associator {_ _ _} := isoMk (Algebra.TensorProduct.assoc R R _ _ _)
+  leftUnitor _ := isoMk (Algebra.TensorProduct.lid R _)
+  rightUnitor _ := isoMk (Algebra.TensorProduct.rid R R _)
+
+@[simp] lemma coe_tensorUnit : 𝟙_ (CommAlgCat.{u} R) = R := rfl
+@[simp] lemma coe_tensorObj (A B : CommAlgCat.{u} R) : A ⊗ B = A ⊗[R] B := rfl
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]:
```suggestion

section
variable (A B : CommAlgCat R)

@[simp] lemma coe_tensorObj : A ⊗ B = A ⊗[R] B := rfl
```

May suggestion about the parameters also applies here, is it also about being explicit?

If that’s the case, then I’d say it’s at least best to pick 1 pattern. Either `variable (...) in` or explicit re-decl of the vars at each stage. It feels weird reading the file and seeing a switch from one to the other...

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean (hunk 8 above)
Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean:61]: setting `set_option universes.pp true` shows no universe metavariables? Or am I tricked by the pretty-printer only showing me after assignment?

Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean:61]: Yes, you are getting tricked

Comment (robin-carlier) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean:61]: My bad then. It’s true that you get about 4% speedup by making them explicit.

**Comment by robin-carlier** [comment]
Apart from admittedly nitpicks about how vars are handled (and perhaps one identation), up to the decision about waiting on a `CocartesianMonoidalCategory` struct, lgtm. (edit: actually, a few more nits, but I like the compact format!)

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: Yes indeed, not sure what happened here in the first place

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]: I've tried something, but honestly you're wandering into style-land here :-)

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 11]
```diff
@@ -0,0 +1,114 @@
...
+
+noncomputable section
+
+namespace CommAlgCat
+universe u v
+variable {R : Type u} [CommRing R] {A B C D : CommAlgCat.{u} R}
+
+variable (A B)
+
+/-- The explicit cocone with tensor products as the fibered product in `CommAlgCat`. -/
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]:
```suggestion
/-- The explicit cocone with tensor products as the fibered coproduct in `CommAlgCat`. -/
```

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 12]
```diff
@@ -0,0 +1,114 @@
...
+  BinaryCofan.IsColimit.mk _
+    (fun f g ↦ ofHom (lift f.hom g.hom fun _ _ ↦ .all _ _))
+    (fun f g ↦ by ext1; exact lift_comp_includeLeft _ _ fun _ _ ↦ .all _ _)
+    (fun f g ↦ by ext1; exact lift_comp_includeRight _ _ fun _ _ ↦ .all _ _)
+    (fun f g m hm₁ hm₂ ↦ by
+      ext1
+      refine liftEquiv.symm_apply_eq (y := ⟨⟨_, _⟩, fun _ _ ↦ .all _ _⟩).mp ?_
+      exact Subtype.ext (Prod.ext congr(($hm₁).hom) congr(($hm₂).hom)))
+
+/-- The initial object of `CommAlgCat R` is `R` as an algebra over itself -/
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]:
```suggestion
/-- The initial object of `CommAlgCat R` is `R` as an algebra over itself. -/
```

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 13]
```diff
@@ -0,0 +1,114 @@
...
+  fst := _
+  snd := _
+  tensorProductIsBinaryProduct S T := BinaryCofan.IsColimit.op <| binaryCofanIsColimit S.unop T.unop
+  fst_def S T := by ext x; show x ⊗ₜ 1 = x ⊗ₜ algebraMap R (unop T:) 1; simp
+  snd_def S T := by ext x; show 1 ⊗ₜ x = algebraMap R (unop S:) 1 ⊗ₜ x; simp
+
+variable {A B C D : (CommAlgCat.{u} R)ᵒᵖ}
+
+@[simp] lemma fst_unop_hom (A B : (CommAlgCat R)ᵒᵖ) : (fst A B).unop.hom = includeLeft := rfl
+@[simp] lemma snd_unop_hom (A B : (CommAlgCat R)ᵒᵖ) : (snd A B).unop.hom = includeRight := rfl
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]:
```suggestion
@[simp] lemma fst_unop_hom (A B : (CommAlgCat.{u} R)ᵒᵖ) : (fst A B).unop.hom = includeLeft := rfl
@[simp] lemma snd_unop_hom (A B : (CommAlgCat.{u} R)ᵒᵖ) : (snd A B).unop.hom = includeRight := rfl
```

Since you prefer to add them, it fits :D

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 14]
```diff
@@ -0,0 +1,114 @@
...
+@[simp] lemma coe_tensorUnit : 𝟙_ (CommAlgCat.{u} R) = R := rfl
+
+@[simp] lemma coe_tensorObj : A ⊗ B = A ⊗[R] B := rfl
+
+variable {A B}
+
+@[simp] lemma tensorHom_hom (f : A ⟶ C) (g : B ⟶ D) : (f ⊗ₘ g).hom = map f.hom g.hom := rfl
+
+variable (C) in
+@[simp] lemma rightWhisker_hom (f : A ⟶ B) : (f ▷ C).hom = map f.hom (.id _ _) := rfl
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]:
```suggestion
@[simp] lemma whiskerRight_hom (f : A ⟶ B) : (f ▷ C).hom = map f.hom (.id _ _) := rfl
```
Same below.

**Review by robin-carlier — CHANGES_REQUESTED** [review]

File: Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean [hunk 15]
```diff
@@ -0,0 +1,114 @@
...
+
+variable (C) in
+@[simp] lemma leftWhisker_hom (f : A ⟶ B) : (C ◁ f).hom = map (.id _ _) f.hom := rfl
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/CommAlgCat/Monoidal.lean]:
```suggestion
@[simp] lemma whiskerLeft_hom (f : A ⟶ B) : (C ◁ f).hom = map (.id _ _) f.hom := rfl
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by smorel394** [comment]
Did you guys reach a decision on a `CocartesianMonoidalCategory` structure?
@robin-carlier , do you have more nits or do you think that this can be merged?

**Comment by robin-carlier** [comment]
No clear-cut decision emerged from the higher ups.

Except for the thing about CocartesianMonoidal, it’s good to go I think. So instead of stalling this more than it should have been, I’m willing to agree to `CartesianMonoidal _ᵒᵖ` for now, and will bring a definition for `CocartesianMonoidal ` and refactor this soon. From my experiments, this won’t change a single defeq in this file, just merely how the instance on the opposite category is inferred, so this should be relatively harmless.

**Comment by robin-carlier** [comment]
Sorry for the delay between this and my last comment, I wanted to have a last look before putting it on the queue. As said, I’ll work on `CocartesianMonoidalCategory` ASAP to hotswap the instances. 

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
